US04876257
6-[1-[1-[Bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-acetoxy-3-propanylthio]purine 3/4 Hydrate
To a solution of 6-[1-[1-[bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-hydroxy-3-propanylthio]purine (1.0 g, 0.002 mol) in CH2Cl2 (7 mL), acetic anhydride (0.2 mL, 0.002 mol) in Et3N (0.2 mL, 0.002 mol) was added dropwise over 5 min at room temperature under nitrogen. After 70 h, CH2Cl2 (50 mL) was added and the solution was extracted with saturated NaHCO3 (2×100 mL), H2O (1×100 mL), and saturated brine (1×100 mL); the organic layer was dried over Na2SO4. Solvent removal of the dried organic layer gave a solid which was dried in vacuo at 40° C. to give pure product (0.7 g, 64.8%), mp 105°-109° C. (dec). DCI/MS (M+1) 539. 400 MHz 1H NMR (CDCl3) δ: 8.7 (s, 1H), 8.2 (s, 1H), 7.3 (m, 4H), 6.95 (m, 4H), 5.3 (m, 1H), 4.2 (s, 1H), 3.4 and 4.0 (m, 2H), 2.65 (m, 2H), 2.6 (m, 4H), 2.4 (m, 4H), 2.0 (s, 3H).

reactant | 6-[1-[1-[bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-hydroxy-3-propanylthio]purine | 0.002 mol, 1.0 g | FC1=CC=C(C=C1)C(N1CCN(CC1)CC(CSC1=C2NC=NC2=NC=N1)O)C1=CC=C(C=C1)F | C25H26F2N6OS
reactant | acetic anhydride | 0.002 mol, 0.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Et3N | 0.002 mol, 0.2 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 6-[1-[1-[Bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-acetoxy-3-propanylthio]purine | 0.7 g, 64.8% | FC1=CC=C(C=C1)C(N1CCN(CC1)CC(CSC1=C2NC=NC2=NC=N1)OC(C)=O)C1=CC=C(C=C1)F | C27H28F2N6O2S
